US05739351
The procedure is as described for Example 13, starting from 0.07 g of (3aRS,4RS,6SR,7aSR)-6-p-toluenesulphonyloxymethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol and 0.015 g of potassium cyanide, and gives 0.024 g of (3aRS,4RS,6SR,7aSR)-6-cyanomethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol in the form of a thick white foam.

reactant | (3aRS,4RS,6SR,7aSR)-6-p-toluenesulphonyloxymethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol | 0.07 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)N1CCCC1)=O)(O)C1=C(C=CC=C1)F)C | C34H39FN2O5S
reactant | potassium cyanide | 0.015 g | [C-]#N.[K+]
product | (3aRS,4RS,6SR,7aSR)-6-cyanomethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol | 0.024 g | C(#N)CC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)N1CCCC1)=O)(O)C1=C(C=CC=C1)F | C28H32FN3O2
